US07355049B2
A solution of 4-iodophenol (10.08 g, 45.8 mmol) in N,N-dimethylformamide (30 mL) was added to a ice-bath cooled suspension of sodium hydride (60%; 1.65 g, 41.2 mmol) in N,N-dimethylformamide (30 mL). The ice bath was removed and the mixtrue was stirred for 1 h. The mixture was cooled again to ˜5° C. and a solution of 5-(chloro-methyl)-furan-2-carboxylic acid methyl ester (4.00 g, 22.9 mmol) in N,N-dimethylformamide (60 mL) was added. The reaction mixture was stirred overnight at room temperature, then the solvents were evaporated under reduced pressure and water was added. The mixture was extracted three times with ethyl acetate and the combined organic layers were washed twice with 1 M NaOH, and once each with water and brine. The organic solution was dried (magnesium sulfate), filtered, evaporated, and purified using a Biotage 65 L purification system, eluting with 3% methylene chloride/toluene to give 5-(4-iodo-phenoxymethyl)-furan-2-carboxylic acid methyl ester (2.3 g, 28%) as a white solid, along with some mixed fractions.

reactant | 4-iodophenol | 45.8 mmol, 10.08 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | sodium hydride | 41.2 mmol, 1.65 g | [H-].[Na+]
reactant | 5-(chloro-methyl)-furan-2-carboxylic acid methyl ester | 22.9 mmol, 4.00 g | COC(=O)C=1OC(=CC1)CCl | C7H7ClO3
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 5-(4-iodo-phenoxymethyl)-furan-2-carboxylic acid methyl ester | 2.3 g, 28% | COC(=O)C=1OC(=CC1)COC1=CC=C(C=C1)I | C13H11IO4
